US05489586
A mixture of the methyl ester of 3-(cyanomethoxy)benzo[b]thiophene-2-carboxylic acid (405 mg, 1.64 mmols) [J. Hetero. Chem., 12:1037 (1975)], 0.5 mL of Et3N and 0.50 g of RaCo in 50 mL of THF is heated at 100° C. under 1200 psi of hydrogen. The reaction mixture is concentrated in vacuo. Column chromatography eluting with a gradient of 1:1 hexane:ethyl acetate to all ethyl acetate provides 2,3-dihydro -[1]benzothieno[2,3-f]1,4-oxazepin-5(4H)-one in 55% yield; mp 244°-245° C.

reactant | 3-(cyanomethoxy)benzo[b]thiophene-2-carboxylic acid | 1.64 mmols, 405 mg | C(#N)COC=1C2=C(SC1C(=O)O)C=CC=C2 | C11H7NO3S
reactant | Et3N | 0.5 mL | CCN(CC)CC | C6H15N
reactant | hydrogen | [H][H] | H2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2,3-dihydro -[1]benzothieno[2,3-f]1,4-oxazepin-5(4H)-one | 55% yield | O1CCNC(C2=C1C1=C(S2)C=CC=C1)=O | C11H9NO2S
